US08685974B2
To a solution of 1-isopropyl-3-(2-thienyl)-1H-pyrazole (27.5 mmol) in 98 mL dry N,N-dimethylformamide under argon atmosphere was added N-iodosuccinimide (28.9 mmol) in small portions. The reaction mixture was stirred overnight at room temperature. N-Iodosuccinimide (4.4 mmol) was added and stirring was continued for 24 h. 5% aqueous sodium thiosulfate solution and saturated aqueous sodium carbonate solution were added and the mixture was stirred at room temperature for 1 h, then extracted with ethyl acetate. The combined organic extracts were successively washed with water and brine, dried over MgSO4, filtered and concentrated. The residue was purified by chromatography on silica gel (toluene:ethyl acetate 100:0 to 0:100) to afford 3.70 g 4-iodo-1-isopropyl-3-(2-thienyl)-1H-pyrazole (38% yield).

reactant | 1-isopropyl-3-(2-thienyl)-1H-pyrazole | 27.5 mmol | C(C)(C)N1N=C(C=C1)C=1SC=CC1 | C10H12N2S
reactant | N-iodosuccinimide | 28.9 mmol | IN1C(CCC1=O)=O | C4H4INO2
reactant | N-Iodosuccinimide | 4.4 mmol | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 98 mL | CN(C=O)C | C3H7NO
product | 4-iodo-1-isopropyl-3-(2-thienyl)-1H-pyrazole | 3.70 g, 38% yield | IC=1C(=NN(C1)C(C)C)C=1SC=CC1 | C10H11IN2S
